US07994333B2
1-Chloro-3-(5-chlorobenzo[b]thiophen-3-yl)-propan-2-one
The procedure described above for the synthesis of 1-chloro-3-[2-(3-methylbenzo[b]thiophen-2-yl)propan-2-one was followed, reacting 5-chlorobenzo[b]thiophen-3-yl acetic acid (4.00 g, 17.6 mmol) with oxalyl chloride (1.7 mL, 2.5 g, 19 mmol), then ethereal diazomethane, then dry HCl gas. Work-up of the reaction mixture gave pure product as a light golden-yellow solid (4.43 g, 97% yield): 1H NMR (400 MHz, CDCl3) δ 4.12 (s, 2H) 4.15 (s, 2H) 7.35 (dd, J=8.6, 2.1 Hz, 1H) 7.43 (s, 1H) 7.65 (d, J=2.1 Hz, 1H) 7.79 (d, J=8.6 Hz, 1H).

reactant | 5-chlorobenzo[b]thiophen-3-yl acetic acid | 17.6 mmol, 4.00 g | ClC1=CC2=C(SC=C2CC(=O)O)C=C1 | C10H7ClO2S
reactant | oxalyl chloride | 19 mmol, 1.7 mL, 2.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | HCl | Cl | ClH
product | 1-Chloro-3-(5-chlorobenzo[b]thiophen-3-yl)-propan-2-one | 4.43 g, 97% yield | ClCC(CC=1C2=C(SC1)C=CC(=C2)Cl)=O | C11H8Cl2OS
